US09126998B2
8-[(2,6-Difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride
4 drops of DMF were added to 2.0 g of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxylic acid (6.28 mmol, 1 equivalent) in 25 ml of dry THF, followed by the dropwise addition of 3.19 g of oxalyl chloride (25.14 mmol, 4 equivalents). The reaction mixture was stirred at RT for 3 h. Another 0.80 g of oxalyl chloride (6.28 mmol, 1 equivalent) were added, and the reaction was stirred at RT for a further 4 h. The reaction mixture was concentrated and co-evaporated with toluene three times, and the residue was dried under high vacuum. This gave 2.43 g of the title compound (103% of theory).

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]-pyridine-3-carboxylic acid | 6.28 mmol, 2.0 g, 1 equivalent | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | oxalyl chloride | 25.14 mmol, 3.19 g, 4 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 6.28 mmol, 0.80 g, 1 equivalent | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 8-[(2,6-Difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carbonyl chloride hydrochloride | Cl.FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)Cl)C(=CC=C1)F | InChI=1S/C16H11ClF2N2O2.ClH/c1-9-14(15(17)22)21-7-3-6-13(16(21)20-9)23-8-10-11(18)4-2-5-12(10)19;/h2-7H,8H2,1H3;1H
